US05362744
(c) 2-Dodecyl-2H-tetrazole-5-carboxylic acid
To a room temperature, stirred solution of potassium hydroxide (1.97 g, 0.035 mol) in absolute ethanol (280 mL) was added in one portion 2-dodecyl-2H-tetrazole-5-carboxylic acid, ethyl ester (8.7 g, 0.028 mol), and the mixture was stirred for 28 hours. A white precipitate formed. The solids were filtered off, washed with ethanol, and partitioned between ethyl acetate and 10% hydrochloric acid. The organic layer was washed with saturated sodium chloride, dried (MgSO4), and rotoevaporated to a white solid, yield 7.74 g (98%), mp=122°-124° C.

reactant | potassium hydroxide | 0.035 mol, 1.97 g | [OH-].[K+]
reactant | 2-dodecyl-2H-tetrazole-5-carboxylic acid, ethyl ester | 0.028 mol, 8.7 g | C(CCCCCCCCCCC)N1N=C(N=N1)C(=O)OCC | C16H30N4O2
solvent | ethanol | 280 mL | C(C)O | C2H6O
product | 2-Dodecyl-2H-tetrazole-5-carboxylic acid | C(CCCCCCCCCCC)N1N=C(N=N1)C(=O)O | C14H26N4O2
